US05679622
a) Diethyl 5-amino-6-methylpyridine-2,3-dicarboxylate
56.9 g (1.065 mol) of iron powder in 200 ml of glacial acetic acid were initially taken and were heated to 70° C. while stirring, and a solution of 100 g (0.355 mol) of diethyl 6-methyl-5-nitropyridine-2,3-dicarboxylate (EP 277 932) in 700 ml of glacial acetic acid was added in the course of 20 minutes. Stirring was carried out for 2 hours, after which a further 25.2 g (0.45 mol) of iron powder in 200 ml of glacial acetic acid were added and stirring was continued for a further hour at 70° C. The mixture was cooled to 25° C., the precipitate was filtered off with suction and the filtrate was evaporated down under reduced pressure, after which the residue was taken up in methylene chloride, extracted in succession with water, saturated sodium bicarbonate solution and sodium chloride solution, dried over magnesium sulfate and filtered off with suction over a suction filter containing silica gel. 49 g (55% of theory) of the title compound were isolated as a yellow resin from fractions 3 and 4 after they had been evaporated down.

reactant | diethyl 6-methyl-5-nitropyridine-2,3-dicarboxylate | 0.355 mol, 100 g | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C12H14N2O6
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 1.065 mol, 56.9 g | [Fe] | Fe
catalyst | iron | 0.45 mol, 25.2 g | [Fe] | Fe
product | Diethyl 5-amino-6-methylpyridine-2,3-dicarboxylate | NC=1C=C(C(=NC1C)C(=O)OCC)C(=O)OCC | C12H16N2O4
